US05182263
Triphenylphosphine (6.5 g, 25 mmol) was added to a solution of 4-[[2-(1,1-dimethylethyl)-2H-tetrazol-5yl]-methyl]benzenemethanol (3.0 g, 12.4 mmol) and carbon tetrabromide (8.3 g, 25 mmol) in diethyl ether (150 mL). After 3 hours the reaction mixture was concentrated and the residue purified by chromatography on silica gel eluting with a 9:1 mixture of hexane-ethyl acetate to give 5-[[4-(bromomethyl)phenyl]methyl]-2-(1,1-dimethylethyl)-2H-tetrazole (2.4 g, 7.8 mmol) in 63% yield, mp. 73°-74° C.

reactant | Triphenylphosphine | 25 mmol, 6.5 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 4-[[2-(1,1-dimethylethyl)-2H-tetrazol-5yl]-methyl]benzenemethanol | 12.4 mmol, 3.0 g | CC(C)(C)N1N=C(N=N1)CC1=CC=C(C=C1)CO | C13H18N4O
reactant | carbon tetrabromide | 25 mmol, 8.3 g | C(Br)(Br)(Br)Br | CBr4
solvent | diethyl ether | 150 mL | C(C)OCC | C4H10O
product | 5-[[4-(bromomethyl)phenyl]methyl]-2-(1,1-dimethylethyl)-2H-tetrazole | 7.8 mmol, 2.4 g, 63% yield | BrCC1=CC=C(C=C1)CC=1N=NN(N1)C(C)(C)C | C13H17BrN4
